US07846944B2
Step 2: Synthesis of 1-(2-Chlorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
At −35° C., KHMDS (8.03 mL of 0.5 M in toluene, 4.01 mmol) was added to a slurry of methyl p,p-bis(2,2,2-trifluoroethyl)-phosphonoacetate (1.21 g, 3.82 mmol) and 18-crown-6 (506 mg, 1.91 mmol) in 3.0 mL of THF. After the resulting mixture was stirred at −35° C. for 10 min, a solution of 5-amino-1-(2-chlorophenyl)-1H-pyrazole-4-carbaldehyde (424 mg, 1.91 mmol) in THF (1.5 mL+1.5 mL rinsing) was added in via a syringe. The reaction mixture was slowly warmed to RT overnight, quenched with saturated NH4Cl, and extracted with EtOAc twice. The combined EtOAc layers were dried and concentrated to dryness. The resulting brown residue in THF (3.0 mL) at RT was treated with KHMDS (12 mL of 0.5 M in toluene, 6.0 mmol) and heated at 70° C. in an oil bath for 3 h. After the reaction mixture was cooled to RT, it was treated with saturated NH4Cl, and extracted with EtOAc twice. The combined EtOAc layers were dried and concentrated. The brown residue was loaded on an ISCO 12 g column (eluted with 25-65% EtOAc in Hexanes) to give the title compound (352 mg) as a yellow amorphous solid. MS (ESI, pos.ion) m/z: 246.0 (M+1).

reactant | KHMDS | 4.01 mmol, 0.5 M, 8.03 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 18-crown-6 | 1.91 mmol, 506 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 5-amino-1-(2-chlorophenyl)-1H-pyrazole-4-carbaldehyde | 1.91 mmol, 424 mg | NC1=C(C=NN1C1=C(C=CC=C1)Cl)C=O | C10H8ClN3O
reactant | KHMDS | 6.0 mmol, 0.5 M, 12 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 1-(2-Chlorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 352 mg | ClC1=C(C=CC=C1)N1N=CC2=C1NC(C=C2)=O | C12H8ClN3O
